US07897631B2
2-Amino-non-8-ynoic acid methyl ester hydrochloride (2.02 g, 9.20 mmol) was treated to an Akabori reduction followed by a cyanamide condensation employing conditions previously reported to produce 4-Hept-6-ynyl-1H-imidazol-2-ylamine hydrochloride (1.04 g, 53%) as a pale yellow solid (Olofson et al., Journal of Organic Chemistry 1997, 62, (23), 7918-7919). 1H NMR (300 MHz, CD3OD) δ 6.17 (s, 1H), δ 2.19 (t, 2H), δ 1.90 (t, 1H), δ 1.86 (m, 2H), δ 1.24-1.13 (m, 6H) ppm; 13C NMR (75 MHz, CD3OD) δ 147.5, 128.3, 108.8, 83.8, 65.5, 28.4, 28.3, 28.2, 24.5, 17.8 ppm; HRMS (ESI) calcd for C10H16N3 (M+) 178.1338. found 178.1337.

reactant | 2-Amino-non-8-ynoic acid methyl ester hydrochloride | 9.20 mmol, 2.02 g | Cl.COC(C(CCCCCC#C)N)=O
reactant | cyanamide | N#CN | CH2N2
product | 4-Hept-6-ynyl-1H-imidazol-2-ylamine hydrochloride | 1.04 g, 53% | Cl.C(CCCCC#C)C=1N=C(NC1)N | InChI=1S/C10H15N3.ClH/c1-2-3-4-5-6-7-9-8-12-10(11)13-9;/h1,8H,3-7H2,(H3,11,12,13);1H
